2201-01-25 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2201-1-24**]:
   - IP: Neck/Chest CT for IP
   - Cuff balloon deflated to 15, tolerating pressures of 30 with Tidal
   volumes 50% of set volume, Volumes 750
   - Patient given tylenol for back pain
   Allergies:
   Midazolam
   Confusion/Delir
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2201-1-24**] 10:07 AM
   Vancomycin - [**2201-1-24**] 09:00 PM
   Metronidazole - [**2201-1-25**] 02:26 AM
   Ciprofloxacin - [**2201-1-25**] 05:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2201-1-24**] 07:46 AM
   Heparin Sodium (Prophylaxis) - [**2201-1-25**] 12:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-1-25**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.1
C (98.7
   HR: 87 (75 - 125) bpm
   BP: 128/75(87) {84/49(57) - 156/86(108)} mmHg
   RR: 18 (12 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 59 Inch
             Total In:
                                                                  2,799 mL
                                                                    950 mL
   PO:
             TF:
                                                                    234 mL
                                                                    253 mL
   IVF:
                                                                  2,340 mL
                                                                    653 mL
   Blood products:
   Total out:
                                                                  1,824 mL
                                                                    600 mL
   Urine:
                                                                  1,824 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    975 mL
                                                                    350 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 750 (450 - 750) mL
   RR (Set): 12
   RR (Spontaneous): 8
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 29 cmH2O
   SpO2: 99%
   ABG: ///27/
   Ve: 9 L/min
   Physical Examination
   General: Awake, A/O x 3, follows commands, no acute distress
   HEENT: NCAT, PERRL, tracheostomy
   Neck: Supple
   Pulm: L lung with rhonchi and wheezes
   CV: RRR
   Abd: soft, protuberant, nontender, +BS, some ecchymosis from injection
   sites, G tube in LUQ
   Extrem: RUQ with claw deformity-unable to make fist, Generalized
   weakness, worse in legs and RUE-[**3-5**].  LUE 4-/5.
   Neuro: CN intact, normal sensation, follows commands and moves all
   extremities.
   Labs / Radiology
   603 K/uL
   9.2 g/dL
   149 mg/dL
   0.8 mg/dL
   27 mEq/L
   3.8 mEq/L
   19 mg/dL
   105 mEq/L
   137 mEq/L
   27.5 %
   14.4 K/uL
        [image002.jpg]
                             [**2201-1-23**]  09:48 PM
                             [**2201-1-23**]  11:27 PM
                             [**2201-1-24**]  04:27 AM
                             [**2201-1-24**]  06:03 PM
                             [**2201-1-25**]  05:00 AM
   WBC
   20.6
   15.4
   14.4
   Hct
   31.6
   28.6
   30.0
   27.5
   Plt
   692
   644
   603
   Cr
   1.0
   1.0
   0.8
   TCO2
   31
   Glucose
   95
   118
   149
   Other labs: PT / PTT / INR:15.6/72.7/1.4, Differential-Neuts:82.6 %,
   Lymph:10.8 %, Mono:5.1 %, Eos:1.1 %, Ca++:9.0 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.9 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 51**] is a 75F with COPD, pulmonary HTN, atrial fibrillation who is
   ventilator dependent and transferred to [**Hospital1 19**] for IP evaluation of
   ?tracheostomy leak.
   .
   1. ?Trach leak-Could be related to tracheomalacia vs. malpositioning of
   tube to explain low tidal volumes.
   - IP recommendations appreciated-will eval patient today, if unable to
   do bedside procedure, will discuss with ENT
   - Cuff pressure decreased to 15 cc from 23 and tidal volume increased
   to 550.
   - check VBG in afternoon if concern for not ventilating well
   - F/u on CXR read
   .
   2. Chronic respiratory failure-unclear why patient having difficulty
   weaning from vent.  [**Known lastname 51**] have underlying neuromuscular disease given
   generalized weakness.  She also has a history of CHF which [**Known lastname **] be
   contributing.  Patient does also appear thin, [**Known lastname **] have decreased muscle
   mass in setting of poor nutrition. Also complicated by presence of
   possible aspiration pneumonia per OSH records.
   -Aspiration precautions
   -F/u CXR
   -Sputum/blood Cx
   -Abx-continue vanc/flagyl/cipro-Day 1=[**1-23**], d/c zosyn
   -consider neuromuscular eval to work up global weakness
   -nutrition recs
   .
   3. Leukocytosis-Could be related to multiple organisms, is culture
   positive for MRSA, E coli, and Enterococcus.  She [**Known lastname **] have C diff,
   though denies much beyond minimally loose stools.  Was hypoxic today
   for unclear reasons, and [**Known lastname **] have a HAP, though not having sputum
   production or cough.
   -Continue Vanc/Flagyl/cipro
   -F/u Cx
   - Follow fever curve, re culture if spikes
   4. COPD
   -Continue Fluticasone and albuterol
   .
   5. Atrial fibrillation-Not currently rate controlled via medication.
   Currently on ASA 81 mg, but no further anticoagulation
   -Continue ASA 81 mg
   .
   6. ? G tube leak-per OSH records though unclear where-no evidence of
   leaking around stoma, dressing dry.
   -check residuals when TF restarted, holding for now in setting of
   possible procedure
   .
   7. UTI-UA positive on admission despite records indicating treatment
   with linezolid and ceftriaxone(in med list on transfer ceftriaxone not
   recorded)  Patient was previously cuture positive for E.facelis and
   E.coli
   -Follow up-Cx
   -Abx as described above
   -f/u sensitivities from OSH
   .
   8. Anxiety and Depression-currently stabilized on current regimen
   follwed by psych  NP[**First Name8 (NamePattern2) 5283**] [**Last Name (NamePattern1) 5284**]
   -Continue Klonopin, Cymbalta, Seroquel.
   .
   9. Seizures-patient denies having seizures as does daughter does not
   recall any episodes either . Documented in records from outside.
   Currently stable
   -Continue neurontin
   -Monitor neuro status
   .
   10. Anemia-3 point drop from yesterday, but no identifiable source of
   bleeding.
   -Follow HCT, check Fe, B12, folate
   -PM HCT tonight
   11. Hypothyroidism
   -Continue synthroid
   .
   12. CHF-last EF not documented in notes
   -Attempt to get outside records indicating degree of failure and adjust
   fluids as needed
   -Obtain ECHO, as CHF and fluid in lungs [**Known lastname **] contribute to difficulty
   weaning vent.
   .
   13. Sacral decubitus ulcer-currently stage II per nursing staff
   -continue to monitor
   -daily wound care
   FEN-Hold Nocturnal TF and regular thin liquid diet in setting of
   possible procedure
   Access-2 PIV
   PPX-H2 blocker, pneumoboots, heparin SQ
   Dispo-ICU
   Code-Full
   Comm-Daughter-[**Name (NI) 572**]-HCP-[**Telephone/Fax (1) 5285**] or [**Telephone/Fax (1) 5286**], cell phone [**Telephone/Fax (1) 5296**]-very helpful for information.
 RESPIRATORY FAILURE, CHRONIC
 URINARY TRACT INFECTION (UTI)
 LEUKOCYTOSIS
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2201-1-24**] 08:25 AM 45 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2201-1-23**] 11:39 PM
   22 Gauge - [**2201-1-23**] 11:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2201-01-26 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - CXR showed LL collapse, bronch'ed showed thick secretions, BAL sent,
   gram stain showed gram negative rods
   - Restarted zosyn for double coverage of GNR's and discontinued flagyl
   as not needed for aspiration coverage with zosyn
   - Morphine for air hunger, gave ativan because continued to feel
   dyspneic however tidal volumes in the 300's, O2 sat 97-98%.  Attempted
   suctioning after CXR did not look much improved from prior.
 BRONCHOSCOPY - At [**2201-1-25**] 11:45 AM
 SPUTUM CULTURE - At [**2201-1-25**] 11:50 AM
   Allergies:
   Midazolam
   Confusion/Delir
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2201-1-24**] 10:07 AM
   Metronidazole - [**2201-1-25**] 05:30 PM
   Vancomycin - [**2201-1-25**] 08:00 PM
   Ciprofloxacin - [**2201-1-26**] 05:00 AM
   Piperacillin - [**2201-1-26**] 06:00 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2201-1-25**] 07:46 AM
   Lorazepam (Ativan) - [**2201-1-25**] 11:41 AM
   Fentanyl - [**2201-1-25**] 11:51 AM
   Heparin Sodium (Prophylaxis) - [**2201-1-25**] 05:29 PM
   Morphine Sulfate - [**2201-1-26**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-1-26**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.1
C (96.9
   HR: 120 (79 - 122) bpm
   BP: 170/83(103) {84/47(56) - 170/91(107)} mmHg
   RR: 19 (12 - 22) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 59 Inch
             Total In:
                                                                  4,556 mL
                                                                  1,186 mL
   PO:
             TF:
                                                                    590 mL
                                                                    450 mL
   IVF:
                                                                  3,391 mL
                                                                    736 mL
   Blood products:
   Total out:
                                                                  2,660 mL
                                                                    730 mL
   Urine:
                                                                  2,660 mL
                                                                    730 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,896 mL
                                                                    456 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 750) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI Deferred: Vent Dependant
   PIP: 17 cmH2O
   SpO2: 98%
   ABG: 7.36/45/123/22/0
   Ve: 6.2 L/min
   PaO2 / FiO2: 308
   Physical Examination
   General: Awake, A/O x 3, follows commands, no acute distress
   HEENT: NCAT, PERRL, tracheostomy with audible leak
   Neck: Supple
   Pulm: L lung with rhonchi and wheezes
   CV: RRR
   Abd: soft, protuberant, nontender, +BS, some ecchymosis from injection
   sites, G tube in LUQ
   Extrem: RUQ with claw deformity-unable to make fist, Generalized
   weakness, worse in legs and RUE-[**3-5**].  LUE 4-/5.
   Neuro: CN intact, normal sensation, follows commands and moves all
   extremities.
   Labs / Radiology
   486 K/uL
   9.7 g/dL
   104 mg/dL
   0.6 mg/dL
   22 mEq/L
   4.0 mEq/L
   15 mg/dL
   109 mEq/L
   140 mEq/L
   28.3 %
   15.8 K/uL
        [image002.jpg]
                             [**2201-1-23**]  09:48 PM
                             [**2201-1-23**]  11:27 PM
                             [**2201-1-24**]  04:27 AM
                             [**2201-1-24**]  06:03 PM
                             [**2201-1-25**]  05:00 AM
                             [**2201-1-25**]  08:16 AM
                             [**2201-1-26**]  03:15 AM
   WBC
   20.6
   15.4
   14.4
   15.8
   Hct
   31.6
   28.6
   30.0
   27.5
   28.3
   Plt
   692
   644
   603
   486
   Cr
   1.0
   1.0
   0.8
   0.6
   TCO2
   31
   26
   Glucose
   95
   118
   149
   104
   Other labs: PT / PTT / INR:14.3/29.6/1.2, Differential-Neuts:82.6 %,
   Lymph:10.8 %, Mono:5.1 %, Eos:1.1 %, Ca++:8.7 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.6 mg/dL
   Assessment and Plan
   Ms. [**Known lastname 51**] is a 75F with COPD, pulmonary HTN, atrial fibrillation who is
   ventilator dependent and transferred to [**Hospital1 19**] for IP evaluation of ?
   tracheostomy leak.
   .
   1. Trach leak:  Most likely related to tracheomegaly, unclear reason.
   IP on board.  Plan for rigid bronchoscopyto evaluate for tracheomalacia
   vs. malpositioning of tube to explain low tidal volumes.
   -Insert larger Trach, can also pack with saline soaked guaze, but did
   not want skin breakdown, so will hold off for now.
   -Treat air hunger with morphine PRN
   .
   2. Respiratory failure:  The patient reported worsening respiratory
   distress today and overnight.  CXR this AM showed evidence of left lung
   collapse.  Other complicating factors [**Known lastname **] be possible underlying
   neuromuscular disease given generalized weakness, history of CHF and
   possible aspiration pneumonia per OSH records.
   -Bronch showed extensive mucus likely cause for collaps
   -F/u cx + for pseudomonas resistant to cipro
   -Started Doripax/Ceftaz Day 1=[**2201-1-26**]
   -Hold on diuretics as urine out put adequate
   -Continue aspiration precautions
   .
   3. Leukocytosis:  Likely secondary to HAP by evidenced on CXR.
   Possible organisms are multiple given OSH records of MRSA, E coli, and
   Enterococcus, will attempt to get those records.  C diff unlikely,
   denies much beyond minimally loose stools.
   - Treat with double coverage for pseudomonas as above
   - Follow cultures
   - Follow fever curve and leukocytosis
   4. COPD-Stable
    -Continue Fluticasone and albuterol
   .
   5. Atrial fibrillation
 not currently requiring medication for rate
   control.  Will start beta blockers as needed.  Currently on ASA 81 mg,
   but no further anticoagulation
   .
   6. ? G tube leak-per OSH records though unclear where-no evidence of
   leaking around stoma, dressing dry.
   - check residuals once tube feeding again
   .
   7. UTI-UA positive on admission despite records indicating treatment
   with linezolid and ceftriaxone(in med list on transfer ceftriaxone not
   recorded)  Patient was previously culture positive for E.facelis and
   E.coli
   -Follow cultures and adjust antibiotics accordingly
   -f/u sensitivities from OSH
   - Continue cipro
   .
   8. Anxiety and Depression-currently stabilized on current regimen
   follwed by psych  NP[**First Name8 (NamePattern2) 5283**] [**Last Name (NamePattern1) 5284**]
   -Continue Klonopin, Cymbalta, Seroquel, with PRN Seroquel for anxiety
   .
   9. Seizures-patient denies having seizures as does daughter does not
   recall any episodes either . Documented in records from outside.
   Currently stable
   -Continue neurontin
   -Monitor neuro status
   .
   10. Anemia-3 point drop from yesterday, but no identifiable source of
   bleeding.
   -Follow HCT, check Fe, B12, folate
   -PM HCT tonight
   11. Hypothyroidism
   -Continue synthroid
   .
   12. CHF-last EF not documented in notes
   -Attempt to get outside records indicating degree of failure and adjust
   fluids as needed
   -Obtain ECHO, as CHF and fluid in lungs [**Known lastname **] contribute to difficulty
   weaning vent.
   .
   13. Sacral decubitus ulcer-currently stage II per nursing staff
   -continue to monitor
   -daily wound care
   FEN-Hold Nocturnal TF and regular thin liquid diet in setting of
   possible procedure-restart today
   Access-2 PIV
   PPX-H2 blocker, pneumoboots, heparin SQ
   Dispo-ICU
   Code-Full
   Comm-Daughter-[**Name (NI) 572**]-HCP-[**Telephone/Fax (1) 5285**] or [**Telephone/Fax (1) 5286**], cell phone [**Telephone/Fax (1) 5296**]-very helpful for information.
 PNEUMONIA, [**Hospital 50**] HOSPITAL ACQUIRED (NON-VAP)
 RESPIRATORY FAILURE, CHRONIC
 URINARY TRACT INFECTION (UTI)
 LEUKOCYTOSIS
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2201-1-26**] 02:43 AM 70 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2201-1-23**] 11:39 PM
   22 Gauge - [**2201-1-23**] 11:53 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: